### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): faces of the boundary

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/Boundary.lean [hunk 1]
```diff
@@ -88,6 +88,15 @@ lemma boundary_obj_eq_univ (m n : ℕ) (h : m < n := by lia) :
       ← Subcomplex.ofSimplex_le_iff]
     apply Subcomplex.ofSimplex_map_le
 
+@[simp]
+lemma boundary_zero : boundary.{u} 0 = ⊥ := by
+  ext m x
+  simp only [boundary, Nat.reduceAdd, Set.mem_setOf_eq, Subfunctor.bot_obj, Set.bot_eq_empty,
+    Set.mem_empty_iff_false, iff_false, Decidable.not_not]
+  intro x
+  fin_cases x
```
Comment (dagurtomas) [inline Mathlib/AlgebraicTopology/SimplicialSet/Boundary.lean]:
```suggestion
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
